US05650133
(a) 1,4,7,10-Tetraazacyclododecane (cyclen)
To a suspension of tetraaza-12-crown-4 tetrahydrochloride (66.6 g, 0.209 mol, Parish, Inc.) in chloroform (2 L), was bubbled NH3 (g) through a gas dispersion tube for 1 hour. The solution was allowed to stir overnight and the white solid was filtered off and washed with CHCl3 (4×100 mL). The combined filtrate was concentrated in vacuo to a white solid which was washed with diethyl ether (4×50 mL) and dried under vacuum at ambient temperature. A second crop of the free base was isolated from the ether washes to give a combined yield of 35.1 g (97.5%). 1H NMR (CDCl3): δ 2.32 (s, 4 H), 2.70 (s, 16 H).

reactant | tetraaza-12-crown-4 tetrahydrochloride | 0.209 mol, 66.6 g | C1CNCCNCCNCCN1.Cl.Cl.Cl.Cl
solvent | chloroform | 2 L | C(Cl)(Cl)Cl | CHCl3
product | 1,4,7,10-Tetraazacyclododecane | N1CCNCCNCCNCC1 | C8H20N4
